***********************************************************
*
* PESD12VL1BA
*
* Nexperia
*
* Low capacitance bidirectional ESD protection diode in SOD323
* VRWM = 12V
* Cd   = 19pF @ f = 1MHz, VR = 0V
* IRM  = 50nA @ VRWM = 12V
* 
* 
*
*
* Package pinning does not match Spice model pinning.
* Package: SOD323 (SC-76)
* 
* Package Pin 1: Cathode D1
* Package Pin 2: Cathode D2
*
*
*
* Extraction date (week/year): 05/2016
* Simulator: SPICE3
*
***********************************************************
*
* The resistors R1 and R2 do not reflect 
* physical devices but improve only 
* modeling in the reverse mode of operation.
*
.SUBCKT PESD12VL1BA 1 2
R1 1 11 8E+011
R2 2 11 8E+011
D1 11 1
+ DIODE1
D2 11 2
+ DIODE2
*
.MODEL DIODE1 D
+ IS = 1E-014
+ N = 0.4
+ BV = 15.4
+ IBV = 3E-009
+ RS = 20
+ CJO = 1E-008
+ VJ = 0.6
+ M = 0.1
+ FC = 0.5
+ TT = 0
+ EG = 1.1
+ XTI = 3
*
.MODEL DIODE2 D
+ IS = 1E-014
+ N = 0.4
+ BV = 15.4
+ IBV = 3E-009
+ RS = 20
+ CJO = 1.89E-011
+ VJ = 1.2
+ M = 0.244
+ FC = 0
+ TT = 0
+ EG = 1.1
+ XTI = 3
.ENDS
*